US08232278B2
Synthesis of 4-ethoxy-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine and ethanol in 87% yield, using the procedure described for the synthesis of 4-phenoxy-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine. The mass spectrum characterising data was as follows: MS (m/z): 270 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C13H7ClFN3
reactant | 4-phenoxy-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C19H12FN3O
solvent | ethanol | C(C)O | C2H6O
product | 4-ethoxy-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 87% yield | C(C)OC=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C15H12FN3O
